US07071175B1
(5-Bromomethyl-pyridin-2-yl)-carbamic acid tert-butyl ester (1.0 g, 3.48 mmol) was added to a solution of 2,2-dimethyl-5-ethyl-1,3-dioxane4,6-dione (600 mg, 3.48 mmol) and triethylamine (0.51 mL, 3.66 mmol) in dimethyl sulfoxide (40 mL) under nitrogen. The reaction mixture was stirred over night and water (100 mL) was added. Filtration of the precipitate gave [5-(5-ethyl-2,2-dimethyl-4,6-dioxo-[1,3]dioxan-5-ylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester (1.15 g, 87%).

reactant | (5-Bromomethyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 3.48 mmol, 1.0 g | C(C)(C)(C)OC(NC1=NC=C(C=C1)CBr)=O | C11H15BrN2O2
reactant | 2,2-dimethyl-5-ethyl-1,3-dioxane4,6-dione | 3.48 mmol, 600 mg | CC1(OC(C(C(O1)=O)CC)=O)C | C8H12O4
reactant | triethylamine | 3.66 mmol, 0.51 mL | C(C)N(CC)CC | C6H15N
reactant | water | 100 mL | O | H2O
solvent | dimethyl sulfoxide | 40 mL | CS(=O)C | C2H6OS
product | [5-(5-ethyl-2,2-dimethyl-4,6-dioxo-[1,3]dioxan-5-ylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester | 1.15 g, 87% | C(C)(C)(C)OC(NC1=NC=C(C=C1)CC1(C(OC(OC1=O)(C)C)=O)CC)=O | C19H26N2O6
